US05691364
To 3-[(6-(3-cyanophenoxy)-3,5-difluoro-4-methylpyridin-2-yl)oxy]benzenepropionic acid (0.50 g, 1.2 mmol) in methylene chloride (20 mL) was added methyl iodide (0.26 g, 1.8 mmol) and diazabicycloundecane (2.8 g, 1.8 mmol). After stirring for 15 hours, the solution was concentrated in vacuo and chromatographed on silica gel with ethyl acetate/hexane (1/4) to give 3-[(6-(3-cyanophenoxy)-3,5-difluoro-4-methylpyridin-2-yl)oxy]benzenepropionic acid, methyl ester; NMR (CDCl3) 7.3 (m,5), 7.05 (d,1), 6.85 (m,2), 3.68 (s,3), 2.9 (t,2), 2.55 (t,2), 2.4 (s,3) ppm.

reactant | 3-[(6-(3-cyanophenoxy)-3,5-difluoro-4-methylpyridin-2-yl)oxy]benzenepropionic acid | 1.2 mmol, 0.50 g | C(#N)C=1C=C(OC2=C(C(=C(C(=N2)OC=2C=C(C=CC2)CCC(=O)O)F)C)F)C=CC1 | C22H16F2N2O4
reactant | methyl iodide | 1.8 mmol, 0.26 g | CI | CH3I
reactant | diazabicycloundecane | 1.8 mmol, 2.8 g | N1(NCCCCCCCCC1)C1CCCCCCCCCC1 | C20H40N2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-[(6-(3-cyanophenoxy)-3,5-difluoro-4-methylpyridin-2-yl)oxy]benzenepropionic acid, methyl ester | C(#N)C=1C=C(OC2=C(C(=C(C(=N2)OC=2C=C(C=CC2)CCC(=O)OC)F)C)F)C=CC1 | C23H18F2N2O4
